US06103708
[2-(2-Bromo-benzyl)-4,5-dimethl-furan-3-yl]-(3-cyclopentyl-4-methoxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 5, step 2 using 3-cyclopentyl-p-anisic acid (2.00 g, 9.08 mmol, RN-59216-82-9), oxalyl chloride (0.871 mL, 9.99 mmol), N,N-dimethylformamide (2 drops), tin (IV) chloride (1.17 mL, 4.58 mmol) and 2-(2-bromo-benzyl)-4,5-dimethyl-furan (2.41 g, 9.08 mmol) in CH2Cl2. Purification on Biotage KP-Sil eluting with 4% EtOAc/pet. ether gave 2.82 g (66%) of the title compound as a clear oil. 1H NMR (DMSO-d6) δ 1.40-1.44 (m, 2 H), 1.57-1.73 (m, 4 H), 1.79 (s, 3 H), 1.87-1.93 (m, 2 H), 2.16 (s, 3 H), 3.21 (quintet, 1 H), 3.86 (s, 3 H), 3.93 (s, 2 H), 7.04 (d, 1 H), 7.11-7.18 (m, 2 H), 7.29 (t, 1 H), 7.51 (dd, 1 H), 7.54-7.60 (m, 2 H).

reactant | 3-cyclopentyl-p-anisic acid | 9.08 mmol, 2.00 g | C1(CCCC1)C=1C=C(C(=O)O)C=CC1OC | C13H16O3
reactant | oxalyl chloride | 9.99 mmol, 0.871 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tin (IV) chloride | 4.58 mmol, 1.17 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-(2-bromo-benzyl)-4,5-dimethyl-furan | 9.08 mmol, 2.41 g | BrC1=C(CC=2OC(=C(C2)C)C)C=CC=C1 | C13H13BrO
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [2-(2-Bromo-benzyl)-4,5-dimethl-furan-3-yl]-(3-cyclopentyl-4-methoxy-phenyl)-methanone | 2.82 g, 66% | BrC1=C(CC=2OC(=C(C2C(=O)C2=CC(=C(C=C2)OC)C2CCCC2)C)C)C=CC=C1 | C26H27BrO3
